US07547679B2
a) 6-(Benzhydrylidene-amino)-1-ethyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester
A Pyrex tube was charged with sodium tert-butoxide (1.4 mmol), Pd2(dba)3 (0.00125 mmol), and BINAP (0.00375 mmol). The Pyrex tube was fitted with a septum and after the air atmosphere was replaced with argon, toluene (4 mL), 1-ethyl-6-iodo-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester (1.0 mmol), and benzophenone imine (1.2 mmol) were added by syringe. The reaction was sealed and heated to 80° C. with stirring until starting material was consumed as judged by GC analysis. The reaction mixture was cooled to room temperature, diluted with ether (40 mL), filtered, and concentrated. The crude reaction mixture was then recrystallized from MeOH to furnish the desired product in 90% yield.

reactant | sodium tert-butoxide | 1.4 mmol | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.00375 mmol | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 1-ethyl-6-iodo-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 1.0 mmol | C(C)OC(=O)C1=CN(C2=CC=C(C=C2C1=O)I)CC | C14H14INO3
reactant | benzophenone imine | 1.2 mmol | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
catalyst | Pd2(dba)3 | 0.00125 mmol | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(Benzhydrylidene-amino)-1-ethyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 90% yield | C(C)OC(=O)C1=CN(C2=CC=C(C=C2C1=O)N=C(C1=CC=CC=C1)C1=CC=CC=C1)CC | C27H24N2O3
